US04764522
A solution of 1.6 g of t-butyl [2-(5-chloropyrazine-2-carboxamido)ethyl]carbamate in 6 ml of trifluoroacetic acid was stirred at 20° for 20 minutes. The mixture was thereafter evaporated to dryness on a rotary evaporator, the residue was dissolved in methanol and the solution was treated with hydrogen chloride in methanol (6N). After recrystallization from methanol/diethyl ether there was obtained N-(2-aminoethyl)-5-chloropyrazine-2-carboxamide hydrochloride, m.p. 225°.

reactant | t-butyl [2-(5-chloropyrazine-2-carboxamido)ethyl]carbamate | 1.6 g | ClC=1N=CC(=NC1)C(=O)NCCNC(OC(C)(C)C)=O | C12H17ClN4O3
solvent | trifluoroacetic acid | 6 ml | FC(C(=O)O)(F)F | C2HF3O2
product | N-(2-aminoethyl)-5-chloropyrazine-2-carboxamide hydrochloride | Cl.NCCNC(=O)C1=NC=C(N=C1)Cl | InChI=1S/C7H9ClN4O.ClH/c8-6-4-11-5(3-12-6)7(13)10-2-1-9;/h3-4H,1-2,9H2,(H,10,13);1H
